US05891909
a) 3-(5-Chloro-1,3-Dimethylpyrazole-4-sulfonyloxy)-5-methylphenol
A mixture of orcinol monohydrate (650 mg, 4.58 mmol) and 1.03 g (4.50 mmol) of 5-chloro-1,3-dimethylpyrazole-4-sulfonyl chloride in diethyl ether (20 mL) and saturated aqueous sodium bicarbonate (20 mL) was stirred overnight. To the reaction mixture was added 15 mL of tetrahydrofuran, and the reaction mixture was heated to 50° C. for 1 h and at 70° C. for 1 h. The reaction mixture was cooled to room temperature, extracted into ethyl acetate, dried (MgSO4), and purified by flash chromatography (dichloromethane/diethyl ether (100:0 to 95:5 to 93:7)) to give the title compound (558 mg, 37% yield) as an oil. 1H-NMR (300 MHz, CDCl3) δ 6.91-6.92 (m, 1H), 6.57-6.61 (m, 1H), 6.41-6.50 (m, 1H), 5.93 (s, 1H), 3.82 (s, 3H), 2.29 (s, 3H), 2.25 (s, 3H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C12H13ClN2O4S: 316.9 (M+H). Found: 317.0.

reactant | orcinol monohydrate | 4.58 mmol, 650 mg | O.C1(=CC(O)=CC(C)=C1)O
reactant | 5-chloro-1,3-dimethylpyrazole-4-sulfonyl chloride | 4.50 mmol, 1.03 g | ClC1=C(C(=NN1C)C)S(=O)(=O)Cl | C5H6Cl2N2O2S
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
product | 3-(5-Chloro-1,3-Dimethylpyrazole-4-sulfonyloxy)-5-methylphenol | 558 mg, 37% yield | ClC1=C(C(=NN1C)C)S(=O)(=O)OC=1C=C(C=C(C1)C)O | C12H13ClN2O4S
